US07560558B2
Compound 5: 6,7-Dimethoxy-4-(2,4-dimethylphenoxy)quinoline hydrochloride
4-(2,4-Dimethylphenoxy)-6,7-dimethoxyquinoline (99 mg) was dissolved in a 10% hydrochloric acid/methanol solution, and the solution was stirred at room temperature for 15 min. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was washed with ethyl acetate to give the title compound (94 mg, yield 85%).

reactant | 4-(2,4-Dimethylphenoxy)-6,7-dimethoxyquinoline | 99 mg | CC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | C19H19NO3
reactant | hydrochloric acid methanol | Cl.CO
product | 6,7-Dimethoxy-4-(2,4-dimethylphenoxy)quinoline hydrochloride | 94 mg, yield 85% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C | InChI=1S/C19H19NO3.ClH/c1-12-5-6-16(13(2)9-12)23-17-7-8-20-15-11-19(22-4)18(21-3)10-14(15)17;/h5-11H,1-4H3;1H
